Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Isordil / Procardia
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ ___ woman DM, HTN, CAD with 
?MI about ___ years ago who presented to the ED with c/o rash and 
hives x 2 days. She reports eating a chicken taquito at ___ and 
soon after had red spots all over her body. +difficulty 
breathing, +sensation of her throat closing up. She states she 
was trembling, nauseated, and started having a lot of diarrhea. 
She has never had similar symptoms before and has not had any 
new medications or detergents. Of note, she had mild chest pain 
at the time of presentation.  
  
VS on presentation to the ED: 97.5 77 159/112 24 99% RA.  
She received solumedrol 125mg, benadryl 50mg, and pepcid 20mg IV 
overnight with improvement in her hives. In the morning, the ED 
nurse noted that the patient was in atrial fibrillation with 
elevated BP up to 180 systolic. The patient was complaining of 
___ chest pain associated with diaphoresis. Repeat EKG showed 
AFib/Flutter with question of TWI in V5-V6. She was given ASA 
325mg, clonidine 0.1mg, and lopressor 5mg IV followed by 
morphine 4mg IV and SL NTG and the patient was noted to be 
sleeping soon after, although she continued to report ___ pain 
when asked.  
 
Upon presentation to the floor, the patient stated she had a 
pain in her mid chest like a needle. She denied any palpitations 
or shortness of breath, although she does feel dizzy when 
standing.  
 
Past Medical History:
CAD s/p possible MI ___ yrs. ago (according to prior notes in 
chart)  
HTN  
DM II -- Hgb A1C ___ 6.9%  
Atrial fibrillation diagnosed ___, on coumadin in the past  
Depression  
OA  
GERD  
h/o anemia  
h/o colon polyps  
s/p TAHBSO ___ for symtomatic uterine fibroids  
s/p tarsal tunnel procedure (tunnel release?)  

PCP: ___ 

ALLERGIES: NKDA 
 
Social History:
___
Family History:
There is a positive family history of premature coronary artery 
disease. Her mother reportedly died of an MI at the age of ___ 
and her father at the age of ___. She has a daughter with HTN. 
 
Physical Exam:
VS - 97.2 146/78 82 20 99% 2L  
Gen: Pleasant overweight ___ woman sitting on edge 
of bed eating lunch. Oriented x3. Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
Neck: Supple with JVP of 5-6 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
Irregularly irregular with normal S1, S2. No m/r/g. No thrills, 
lifts. No S3 or S4. Marked tenderness to palpation of chest wall 
over sternum.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits. +Dupuytren's contracture of 
right pinky.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. 
+Seborrheic keratoses. No hives.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
LABORATORY DATA:  
Na/K 138/3.2  
BUN/Cr ___  
  
CK 42  
Trop < 0.01  
  
WBC 6.9  
Hct 42.7  
Plt 287  
  
Cholesterol ___:  
LDL 106  
HDL 41  

LABS DURING HOSPITAL COURSE:
___ 12:50PM BLOOD Glucose-142* UreaN-30* Creat-1.1 Na-141 
K-3.7 Cl-105 HCO3-29 AnGap-11
___ 06:25AM BLOOD CK(CPK)-42
___ 01:00PM BLOOD CK(CPK)-33
___ 09:22PM BLOOD CK(CPK)-36
___ 06:25AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 01:00PM BLOOD cTropnT-<0.01
___ 09:22PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 12:50PM BLOOD TSH-0.85

EKG demonstrated AFib/Flutter with normal axis and poor R wave 
progression. As compared with prior dated ___, she has new 
TWI in I, aVL, and V6.

Imaging:  
CXR ___:  
Moderate cardiomegaly is stable. Mediastinal and hilar contours 
are within normal limits. Allowing for low lung volumes, no 
focal consolidation is seen to suggest underlying pneumonia. No 
pleural effusion or pneumothorax is identified. The pulmonary 
vasculature is normal. Mild degenerative changes are seen in the 
spine.  
 
Brief Hospital Course:
Patient is a ___ woman with h/o DM, HTN, AFib apparently not 
coumadin, and ?CAD admitted with hives and found to have chest 
pain with lateral T wave inversions on EKG.  
  
#. Hives:  
Resolved with solumedrol and benadryl. Most likely was a 
reaction to something in the ___ and not any medication, but 
unclear what the trigger was.  Provided her with a prescription 
for benadryl as well as an EpiPen and reviewed the use of these 
medications with a translator prior to her discharge.  She 
understood that she needs to call ___ if she has trouble 
breathing. 

#. Chest pain/Costochondritis:  
Pain was reproducible on exam so was felt to be 
musculoskeletal/costochondritis.  Given her many risk factors 
for CAD, including family history, DM, HTN, and possible 
dyslipidemia, it was felt that she should discuss obtaining a 
stress test with her primary physician on an outpatient basis.  
Her personal history of CAD was unclear from the chart and the 
patient was unable to confirm if she had an MI in the past. 
Serial cardiac enzymes were negative and EKGs were stable.  She 
was continued on ASA, beta blocker, statin, and zetia.  She also 
received some NSAIDs for costochondritis.
  
#. Paroxysmal AFib/AFlutter  
Patient has been on coumadin in the past, but she was unable to 
confirm her medications and her pharmacy stated she had not 
filled coumadin prescription since ___.  Her CHADS2 score is 2. 
 Per discussion with PCP, the patient has been resistant to 
restarting coumadin and he has been unable to convince her to go 
back on it.  TSH was checked and was normal and rate was well 
controlled on beta blocker. 
   
#. DM--A1C 6.9% in ___  
Held metformin and glipizide while inpatient; covered with 
sliding scale during stay. 
 
#. HTN:  
Continued patient's beta blocker, HCTZ, and nifedipine.  Her ___ 
was held in the setting of her ARF but restarted on discharge.
  
#. Acute renal failure:   
Most likely due to dehydration in setting of diarrhea.  She was 
given IV fluids and her ___ was held.  Her renal failure 
resolved by the time of discharge.  

#. Diarrhea:  Volume resuscitation with IV fluids.  

#. Depression: continued fluoxetine  
 
#. Asthma: continued albuterol  
 
#. Code: Full code  
  
#. Comm: ___ (daughter): ___  
 
Medications on Admission:
CURRENT MEDICATIONS (Patient does not know her meds; list per 
her ___ in ___):  
Diclofenac 75mg BID  
Zetia 10mg daily  
Metoprolol succ 100mg daily  
Simvastatin 80mg daily  
HCTZ 25mg daily  
Cozaar 100mg daily  
Nifedical 60mg daily  
ASA 81  
Calcium plus Vitamin D BID  
Fluoxetine 20mg daily  
Fosamax 70mg qweek  
Tramadol 50mg TID PRN pain  
Metformin 500mg daily  
Glipizide XL 5mg daily  
Albuterol 90mcg 2 puffs Q4-6hr  
Warfarin 5mg--last filled in ___  
 
Discharge Medications:
1. Diclofenac Sodium 75 mg Tablet, Delayed Release (E.C.) Sig: 
One (1) Tablet, Delayed Release (E.C.) PO twice a day.  
2. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
4. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. CALCIUM 500+D 500 (1,250)-200 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  
8. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. Tramadol 50 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain.  
10. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
11. Nifedical XL 60 mg Tab,Sust Rel Osmotic Push 24hr Sig: One 
(1) Tab,Sust Rel Osmotic Push 24hr PO once a day.  
12. Metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Glipizide 5 mg Tab,Sust Rel Osmotic Push 24hr Sig: One (1) 
Tab,Sust Rel Osmotic Push 24hr PO once a day.  
14. Cozaar 100 mg Tablet Sig: One (1) Tablet PO once a day.  
15. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
16. EpiPen 0.3 mg/0.3 mL Pen Injector Sig: One (1) pen 
Intramuscular once as needed for sudden difficulty 
breathing/facial swelling: Please inject yourself with EpiPen if 
you have facial swelling and sudden difficulty breathing.  Call 
___ right away.
Disp:*2 pens* Refills:*0*
17. Benadryl 25 mg Capsule Sig: One (1) Capsule PO three times a 
day as needed for hives.
Disp:*30 Capsule(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:  Urticaria
Secondary Diagnoses:  Chest pain, Costochondritis, Diabetes, 
Atrial fibrillation, Hypertension, Acute renal failure, 
Dehydration

 
Discharge Condition:
Vital signs stable, urticaria resolved.

 
Discharge Instructions:
You were admitted after you had an allergic reaction that caused 
hives.  Your symptoms improved with solumedrol and benadryl.  
You were also dehydrated and were given IV fluids to protect 
your kidneys.  Because you had some pain in your chest, we did 
tests that showed there was no damage to your heart.

1. Please take all medications as prescribed.  We did not make 
any changes to your regular medications.  

***You were given a prescription for benadryl, which you should 
take if you develop hives (the red spots you saw on your skin).  
If you have any difficulty breathing or feel like your throat is 
swelling up, please inject yourself with your EpiPen as you were 
shown AND call ___ right away.***

2. Please attend all follow-up appointments listed below.

3. Please call your doctor or return to the hospital if you 
develop chest pain, shortness of breath, fevers, rash or hives, 
difficulty breathing, facial swelling, or any other concerning 
symptom.
 
Followup Instructions:
___